US04499289
Ethyl 1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-1-naphthaleneacetate.
A solution of 1.41 g (19 mmoles) of isopropylmethylamine in 10 ml of tetrahydrofuran was cooled to -78°, and 6.6 ml 1.1 equiv~1.67 M (11 mmoles) of n-butyllithium was added dropwise. After fifteen minutes at -78°, a solution of 0.88 g (10 mmoles) of ethyl acetate in 3 ml of tetrahydrofuran was added dropwise. After stirring for ten minutes at -78° a solution of 1.76 g (10 mmoles) of 6-methoxy-1-tetralone in 5 ml of tetrahydrofuran was added. After ten minutes the mixture was acidified with 10% hydrochloric acid and concentrated to dryness. The residue was extracted into diethyl ether, and the organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude material was chromatographed on silica gel to give 2.4 g of the title compound as an oil. Structure assignment was confirmed by the proton nmr spectrum.

reactant | isopropylmethylamine | 19 mmoles, 1.41 g | C(C)(C)NC | C4H11N
reactant | n-butyllithium | 11 mmoles | C(CCC)[Li]
reactant | ethyl acetate | 10 mmoles, 0.88 g | C(C)(=O)OCC | C4H8O2
reactant | 6-methoxy-1-tetralone | 10 mmoles, 1.76 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Ethyl 1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-1-naphthaleneacetate | 2.4 g | OC1(CCCC2=CC(=CC=C12)OC)CC(=O)OCC | C15H20O4
